US06610723B2
2-(3,4-Dichloro-phenyl)-4-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:2)
The title compound, MS: m/e=317.0 (M+) was obtained as a beige solid (51% yield) by the reaction of 4-chloromethyl-2-(3,4-dichloro-phenyl)-pyridine hydrochloride (1:1) with 2-methylimidazole, using sodium hydride and triethylamine as base followed by formation of the hydrochloride salt.

reactant | 4-chloromethyl-2-(3,4-dichloro-phenyl)-pyridine hydrochloride | Cl.ClCC1=CC(=NC=C1)C1=CC(=C(C=C1)Cl)Cl
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
product | 2-(3,4-Dichloro-phenyl)-4-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=NC=CC(=C1)CN1C(=NC=C1)C | InChI=1S/C16H13Cl2N3.ClH/c1-11-19-6-7-21(11)10-12-4-5-20-16(8-12)13-2-3-14(17)15(18)9-13;/h2-9H,10H2,1H3;1H
